US08183289B2
A flask was charged with tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)-2-fluoroacetate (0.026 g), 0.5 ml of dichloromethane and 0.2 ml of TFA. The reaction was concentrated, and the residue was dissolved in a minimal amount of dichloromethane and placed under high vacuum to give a solid. The procedure was repeated to give 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)-2-fluoroacetic acid (0.024 g) as a tan solid.

reactant | tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)-2-fluoroacetate | 0.026 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)C(C(=O)OC(C)(C)C)F)C#N)C=C2)C=C1 | C28H26ClFN2O4
reactant | TFA | 0.2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)-2-fluoroacetic acid | 0.024 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)C(C(=O)O)F)C#N)C=C2)C=C1 | C24H18ClFN2O4
